US07642264B2
2′-Chloro-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl
The title compound was prepared from trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester (example A.32) (3.0 g, 7.8 mmol), commercially available 2-chloro-4-iodo-pyridine [CAS No. 153034-86-7] (1.92 g, 8.0 mmol) and i-PrMgCl/ZnCl2 according to the general procedure IVc protocol a. Obtained as a white solid (1.50 g, 55%). MS (ISP) 349.2 [(M+H)+] and 351 [(M+2+H)+].

reactant | trifluoro-methanesulfonic acid 6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl ester | 7.8 mmol, 3.0 g | CC1=CC(=CC(=N1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C14H9F6NO3S
reactant | 2-chloro-4-iodo-pyridine | ClC1=NC=CC(=C1)I | C5H3ClIN
catalyst | i-PrMgCl ZnCl2 | C(C)(C)[Mg]Cl.[Cl-].[Cl-].[Zn+2]
product | 2′-Chloro-6-methyl-4-(4-trifluoromethyl-phenyl)-[2,4′]bipyridinyl | ClC1=NC=CC(=C1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C18H12ClF3N2
